US06172075B2
(RS)-1-Phenyl-1,8-diaza-spiro[4.5]decan-4-ol
(RS)-8-Benzyl-1-phenyl-1,8-diaza-spiro[4.5]decan-4-ol (7.8 mmol) was dissolved in methanol (100 ml) and ethylacetate (100 ml). Palladium on carbon (10%, 0.2 g) was added and the mixture was hydrogenated at room temperature and normal pressure. Filtration and evaporation yielded the desired product. 1.8 g (99%) (RS)-1-phenyl-1,8-diaza-spiro[4.5]decan-4-ol as a beige solid, m.p. 141-144° C. and MS: m/e=232 (M+).

reactant | (RS)-8-Benzyl-1-phenyl-1,8-diaza-spiro[4.5]decan-4-ol | 7.8 mmol | C(C1=CC=CC=C1)N1CCC2(C(CCN2C2=CC=CC=C2)O)CC1 | C21H26N2O
solvent | methanol | 100 ml | CO | CH4O
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
catalyst | Palladium on carbon | 0.2 g | [Pd] | Pd
product | (RS)-1-Phenyl-1,8-diaza-spiro[4.5]decan-4-ol | C1(=CC=CC=C1)N1CCC(C12CCNCC2)O | C14H20N2O
